US07714168B2
To 100 ml of toluene were added 13.0 g of 4-(2-propynyloxy)-3,5-dimethoxybenzoic acid, 9.5 g of thionyl chloride and 50 mg of DMF, and the mixture obtained was heated under reflux for 3 hours. Then, the reaction mixture was concentrated. The solid obtained was washed with hexane to obtain 12.0 g of 4-(2-propynyloxy)-3,5-dimethoxybenzoyl chloride represented by the formula:

reactant | 4-(2-propynyloxy)-3,5-dimethoxybenzoic acid | 13.0 g | C(C#C)OC1=C(C=C(C(=O)O)C=C1OC)OC | C12H12O5
reactant | thionyl chloride | 9.5 g | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 50 mg | CN(C)C=O | C3H7NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-propynyloxy)-3,5-dimethoxybenzoyl chloride | 12.0 g | C(C#C)OC1=C(C=C(C(=O)Cl)C=C1OC)OC | C12H11ClO4
